US08536210B2
Step 2: 3-Methoxy-2-methylbenzaldehyde oxime (Method A, as a preferred embodiment of Procedure A, Scheme 1) (compound 1)
To an ice-cooled and stirred suspension of 3-methoxy-2-methylbenzaldehyde (0.269 g, 1.8 mmol) in ethanol (15 ml) a solution of NaOAc.3H2O (1.3 eq) and NH2OH.HCl (1.3 eq) in water (5 ml) was added dropwise within 5 minutes. The resulting suspension was stirred at room temperature until the starting material was consumed (monitored by TLC). After evaporation of the ethanol in vacuo, water was added to the residue. Then the precipitated crystals were filtered off. The crude product was purified by column chromatography with a mixture of chloroform:ethyl acetate (95:5) as the eluent.

reactant | 3-methoxy-2-methylbenzaldehyde | 1.8 mmol, 0.269 g | COC=1C(=C(C=O)C=CC1)C | C9H10O2
reactant | NH2OH.HCl | 1.3 eq | NO.Cl
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 3-Methoxy-2-methylbenzaldehyde oxime | COC=1C(=C(C=NO)C=CC1)C | C9H11NO2
